US08614334B2
Step 2: Synthesis Method of 3-[4-(1-naphthyl)-phenyl]-9-phenyl-9H-carbazole (abbreviation: PCPN)
The Rf values of the objective substance and 3-(4-bromophenyl)-9-phenyl-9H-carbazole were respectively 0.57 and 0.65, which were obtained by silica gel thin layer chromatography (TLC) (with a developing solvent containing ethyl acetate and hexane in a 1:10 ratio).

reactant | 3-(4-bromophenyl)-9-phenyl-9H-carbazole | BrC1=CC=C(C=C1)C=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC=C1 | C24H16BrN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 3-[4-(1-naphthyl)-phenyl]-9-phenyl-9H-carbazole | C1(=CC=CC2=CC=CC=C12)C1=CC=C(C=C1)C=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC=C1 | C34H23N
